US07053089B2
3-Nitro-N6-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyridine-2,6-diamine
EXAMPLE 103 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 6-chloro-3-nitro-pyridin-2-ylamine: MS (m+1)=420.5.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 6-chloro-3-nitro-pyridin-2-ylamine | ClC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4ClN3O2
product | 3-Nitro-N6-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyridine-2,6-diamine | [N+](=O)([O-])C=1C(=NC(=CC1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1)N | C19H25N5O4S
